US08119661B2
Step A. The preparation of ethyl 3-cyano-3-(4-hydroxy-1-piperidyl)pyrrolidine-1-carboxylate
To a stirred solution of 4-hydroxypiperidine (464 mg, 4.58 mmol) and ethyl 3-oxopyrrolidine-1-carboxylate (610 mg, 3.82 mmol) in 1,2-dichloroethane (25 mL) was added titanium isopropoxide (1.09 g, 3.82 mmol), and the mixture was stirred at room temperature overnight. Then a 1.0 M solution of diethylaluminum cyanide (1.02 g, 9.17 mmol) was added at room temperature and the mixture was stirred for 24 h. Diluted with dichloromethane (25 mL) and quenched with saturated ammonium chloride solution (10 mL) at 0° C. Then mixture was filtered through a small pad of celite, and the resulting filtrate was concentrated in vacuo to afford the title compound as a yellow gum (1.0 g). 1H NMR (CDCl3, 400 MHz): δ 4.22 (q, 2H), 4.21-4.1 (dd, 1H), 3.79-3.62 (m, 3H), 3.38 (dd, 1H), 2.9 (brs, 1H), 2.7 (brs, 1H), 2.54-2.35 (m, 3H), 2.18-1.85 (brm, 3H), 1.68-1.45 (m, 3H), 1.25 (t, 3H). MS (M+1): 268.14.

reactant | 4-hydroxypiperidine | 4.58 mmol, 464 mg | OC1CCNCC1 | C5H11NO
reactant | ethyl 3-oxopyrrolidine-1-carboxylate | 3.82 mmol, 610 mg | O=C1CN(CC1)C(=O)OCC | C7H11NO3
reactant | diethylaluminum cyanide | 9.17 mmol, 1.02 g | [C-]#N.C(C)[Al+]CC
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | titanium isopropoxide | 3.82 mmol, 1.09 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | ethyl 3-cyano-3-(4-hydroxy-1-piperidyl)pyrrolidine-1-carboxylate | 1.0 g | C(#N)C1(CN(CC1)C(=O)OCC)N1CCC(CC1)O | C13H21N3O3
